* Schematics Netlist *



R_R15         $N_0002 $N_0001  100  
V_V5         $N_0002 0 5V
R_R16         0 $N_0003  1k  
D_D53         $N_0004 $N_0005 D1N4148 
D_D51         $N_0006 $N_0007 D1N4148 
D_D47         $N_0008 $N_0009 D1N4148 
D_D54         $N_0010 $N_0004 D1N4148 
D_D52         $N_0011 $N_0006 D1N4148 
D_D48         $N_0012 $N_0008 D1N4148 
D_D46         $N_0013 $N_0014 D1N4148 
D_D42         $N_0015 $N_0016 D1N4148 
D_D45         $N_0014 $N_0017 D1N4148 
D_D43         $N_0018 $N_0015 D1N4148 
D_D44         $N_0019 $N_0013 D1N4148 
D_D49         $N_0020 $N_0012 D1N4148 
D_D50         $N_0021 $N_0011 D1N4148 
D_D55         $N_0022 $N_0010 D1N4148 
D_D60         $N_0023 $N_0018 D1N4148 
D_D59         $N_0023 $N_0019 D1N4148 
D_D58         $N_0023 $N_0020 D1N4148 
D_D56         $N_0023 $N_0021 D1N4148 
D_D57         $N_0023 $N_0022 D1N4148 
V_V6         $N_0023 0 9V
X_Q5         $N_0024 $N_0001 $N_0003 Q2N6059
R_R17         $N_0024 $N_0005  26  
R_R18         $N_0024 $N_0007  26  
R_R19         $N_0024 $N_0009  26  
R_R20         $N_0024 $N_0017  26  
D_D41         $N_0016 $N_0025 D1N4148 
R_R21         $N_0024 $N_0025  60  
