* Schematics Netlist *



X_Q1         $N_0002 $N_0001 $N_0003 Q2N6059
D_D5         $N_0004 $N_0005 D1N4148 
D_D6         $N_0006 $N_0004 D1N4148 
D_D15         $N_0007 $N_0006 D1N4148 
D_D14         $N_0008 $N_0009 D1N4148 
D_D4         $N_0010 $N_0011 D1N4148 
D_D7         $N_0009 $N_0010 D1N4148 
D_D3         $N_0012 $N_0013 D1N4148 
D_D8         $N_0014 $N_0012 D1N4148 
D_D13         $N_0015 $N_0014 D1N4148 
D_D12         $N_0016 $N_0017 D1N4148 
D_D2         $N_0018 $N_0019 D1N4148 
D_D9         $N_0017 $N_0018 D1N4148 
D_D1         $N_0020 $N_0021 D1N4148 
D_D10         $N_0022 $N_0020 D1N4148 
D_D11         $N_0023 $N_0022 D1N4148 
D_D19         $N_0024 $N_0016 D1N4148 
D_D20         $N_0024 $N_0023 D1N4148 
D_D18         $N_0024 $N_0015 D1N4148 
D_D17         $N_0024 $N_0008 D1N4148 
D_D16         $N_0024 $N_0007 D1N4148 
V_V1         $N_0025 0 0V
R_R1         0 $N_0003  1k  
R_R7         $N_0025 $N_0001  100  
R_R5         $N_0002 $N_0021  10  
R_R4         $N_0002 $N_0019  10  
R_R3         $N_0002 $N_0013  10  
R_R6         $N_0002 $N_0005  10  
R_R2         $N_0002 $N_0011  10  
V_V2         $N_0024 0 7,4V
